US06313145B1
(2-Nitro-5trifluoromethylphenyl)acetonitrile (D4)
4-Nitrobenzotrifluoride (5 g, 0.026 mole) and 4-chlorophenoxyacetonitrile (4.86 g, 0.029 mole) in dry DMF (50 ml) were added dropwise to a solution of potassium-t-butoxide (6.4 g, 0.057 mole) in dry DMF (30 ml) under argon at −10° C. over 1 hour. The mixture was stirred at −10° C. for a further 3 hours, after which it was poured into 5N HCl/ice water (1:1) (300 ml) and extracted into DCM (3×200 ml). The DCM extract was washed with 10% aqueous sodium hydroxide solution, 5N hydrochloric acid and brine, dried (Na2SO4) and evaporated in vacuo. The resulting oil was chromatographed on silica gel eluting with 20% ethyl acetate/60-80° petroleum ether to afford the title compound (1.9 g, 32%) as an orange oil.

reactant | 4-Nitrobenzotrifluoride | 0.026 mole, 5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(F)(F)F | C7H4F3NO2
reactant | 4-chlorophenoxyacetonitrile | 0.029 mole, 4.86 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | potassium-t-butoxide | 0.057 mole, 6.4 g | CC(C)([O-])C.[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (2-Nitro-5trifluoromethylphenyl)acetonitrile | 1.9 g, 32% | [N+](=O)([O-])C1=C(C=C(C=C1)C(F)(F)F)CC#N | C9H5F3N2O2
